US09233979B2
1-(3-(4-methoxybenzyl)-4-methyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-((R)-1-phenylethyl)urea (100 mg, 0.143 mmol) was taken in TFA (0.7 mL) and stirred at room temperature for 30 minutes. Triethylsilane (91 uL, 0.572 mmol) was added to the reaction mixture and stirred for 15 minutes at room temperature then heated at 80° C. for 30 minutes. The reaction mixture was concentrated, taken in DCM and washed with aqueous sodium bicarbonate, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-15% MeOH-DCM) followed by SFC separation with a Chiralpak AS-H column gave 1-((R)-4-methyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-((R)-1-phenylethyl)urea as peak 1. MS ESI calc'd. for C18H20N6O [M+H]+ 337. found 337. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 11.29 (s, 1H), 8.90 (s, 1H), 8.40 (br, s, 1H), 7.32 (dd, J=3.4, 7.9, 4H), 7.24-7.14 (m, 1H), 7.00 (s, 1H), 6.30 (s, 1H), 4.83 (m, 1H), 3.65 (m, 1H), 2.88-2.77 (m, 1H), 2.67-2.53 (m, 1H), 1.39 (d, J=6.9, 3H), 1.29 (d, J=6.3, 3H).

reactant | 1-(3-(4-methoxybenzyl)-4-methyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-((R)-1-phenylethyl)urea | 0.143 mmol, 100 mg | COC1=CC=C(CN2C=3C=4C(=CC(=NC4CC2C)NC(=O)N[C@H](C)C2=CC=CC=C2)NN3)C=C1 | C26H28N6O2
reactant | Triethylsilane | 0.572 mmol, 91 uL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-((R)-4-methyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-((R)-1-phenylethyl)urea | C[C@H]1NC=2C=3C(=CC(=NC3C1)NC(=O)N[C@H](C)C1=CC=CC=C1)NN2 | C18H20N6O
